US05856573
Methanol (4 ml) and pyridinium p-toluenesulfonate (0.04 g, 0.00017 mol) were added to an E/Z mixture of 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-methoxyimino-N-methylacetamide (0.50 g, 0.0017 mol), and the mixture was stirred under reflux for 2 hours. After completion of the reaction, half-saturated brine (100 ml) was added, and the mixture was extracted with dichloromethane (50 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to obtain 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (0.34 g, Yield: 90.0%, E/Z=96/4) as a colorless oil.

reactant | Methanol | 4 ml | CO | CH4O
reactant | pyridinium p-toluenesulfonate | 0.00017 mol, 0.04 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-2-methoxyimino-N-methylacetamide | 0.0017 mol, 0.50 g | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C15H22N2O4
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 0.34 g, Yield: 90.0% | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
